US09255110B2
A mixture of 2-(7-methoxy-6-nitro-quinolin-2-ylamino)-ethanol (0.5 g, 1.90 mmol), iron powder (0.32 g, 5.70 mmol) and ammonium chloride (0.32 g, 5.70 mmol) in a mixture of ethanol and water (3/1, 16 mL) was heated at reflux for 2 hours. The reaction mixture was then filtered through a CELITE™ pad, the filtrate was evaporated under reduced pressure and the residue was triturated ten times with a mixture of dichloromethane and methanol (9/1, 50 mL). The residue was concentrated under reduced pressure to afford 0.425 g of 2-(6-amino-7-methoxy-quinolin-2-ylamino)-ethanol as a brown solid.

reactant | 2-(7-methoxy-6-nitro-quinolin-2-ylamino)-ethanol | 1.90 mmol, 0.5 g | COC1=C(C=C2C=CC(=NC2=C1)NCCO)[N+](=O)[O-] | C12H13N3O4
reactant | ammonium chloride | 5.70 mmol, 0.32 g | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
catalyst | iron | 5.70 mmol, 0.32 g | [Fe] | Fe
product | 2-(6-amino-7-methoxy-quinolin-2-ylamino)-ethanol | 0.425 g | NC=1C=C2C=CC(=NC2=CC1OC)NCCO | C12H15N3O2
